US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)imidazo[1,2-a]pyrimidine-2-carboxamide
The title compound was prepared using the method of Example 34(d) from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile (0.3 g, 1.07 mmol), imidazo[1,2-a]pyrimidine-2-carboxylic acid (0.17 g, 1.07 mmol), HOBt (0.22 g, 1.61 mmol), DIPEA (0.56 mL, 3.23 mmol) and EDCI (0.31 g, 1.61 mmol) using DMF (10 mL) as solvent. Yield 0.29 g. 1H NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 4.30 (dd, 1H), 4.49 (dd, 1H), 4.65 (m, 1H), 6.81 (dd, 1H), 6.98 (dd, 1H), 7.53 (d, 1H), 7.73 (dd, 1H), 8.08 (s, 1H), 8.48 (dd, 1H), 8.67 (m, 3H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile | 1.07 mmol, 0.3 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)F)C | C13H12ClFN4
reactant | imidazo[1,2-a]pyrimidine-2-carboxylic acid | 1.07 mmol, 0.17 g | N=1C(=CN2C1N=CC=C2)C(=O)O | C7H5N3O2
reactant | HOBt | 1.61 mmol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.23 mmol, 0.56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.61 mmol, 0.31 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)imidazo[1,2-a]pyrimidine-2-carboxamide | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C2N(C=CC=N2)C1)F | C20H15ClFN7O
